US06451816B1
N-{4-[1-(6,11-Dihydrodibenzo[b,e]-oxepin-11-yl)-piperidine-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide (Substance 230)
3.46 g (15 mmol) 11-chloro-6,11-dihydrodibenzo[b,e]oxepine are dissolved in 90 ml abs dichloromethane and 5.43 g (15 mmol) N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide dihydrochloride are added. 5.0 g (49.5 mmol) TEA are dissolved in 20 ml abs. dichloromethane and added dropwise under ice cooling. The mixture is stirred without further cooling for two days at RT. Subsequently, the batch is washed twice each with 50 ml water. The organic phase is dried over silica gel with CHCl3/CH2OH (95/5) and crystallized twice at first, each from 10 ml 1-chlorobutane, and subsequently crystallized once from 10 ml acetic acid. Colorless crystals with a MP of 110-112° C. were isolated; yield: 0.2 g (3%).

reactant | 11-chloro-6,11-dihydrodibenzo[b,e]oxepine | 15 mmol, 3.46 g | ClC1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C14H11ClO
reactant | N-(4-piperidin-4-yl-butyl)-3-(pyridin-3-yl)-propionamide dihydrochloride | 15 mmol, 5.43 g | Cl.Cl.N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[1-(6,11-Dihydrodibenzo[b,e]-oxepin-11-yl)-piperidine-4-yl]-butyl}-3-(pyridin-3-yl)-propionamide | C1=CC=CC=2OCC3=C(C(C21)N2CCC(CC2)CCCCNC(CCC=2C=NC=CC2)=O)C=CC=C3 | C31H37N3O2
